US06369110B1
A mixture of ethyl 5-methyl-5-phenyl-4-pentenoate (17.0 g, 77.9 mmol), ammonium formate (49.1 g, 779 mmol), 10% palladium-carbon (1.7 g) and ethanol (350 ml) was stirred at 70-75° C. for 1 hour. The catalyst was filtered off and the filtrate obtained was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with a 5% aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/98) to obtain 16.3 g of ethyl 5-methyl-5-phenylpentanoate.

reactant | ethyl 5-methyl-5-phenyl-4-pentenoate | 77.9 mmol, 17.0 g | CC(=CCCC(=O)OCC)C1=CC=CC=C1 | C14H18O2
reactant | ammonium formate | 779 mmol, 49.1 g | C(=O)[O-].[NH4+]
catalyst | palladium-carbon | 1.7 g | [C].[Pd]
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | ethyl 5-methyl-5-phenylpentanoate | 16.3 g | CC(CCCC(=O)OCC)C1=CC=CC=C1 | C14H20O2
